US04978663
N-[1-[1,6-Dihydro-6-oxo-1-(phenylmethyl)-3-pyridinyl]cyclohexyl]benzeneacetamide
Phenylacetyl chloride (1.6 g) was added to a well stirred suspension of 5-(1-aminocyclohexyl)-1-(phenylmethyl)-2(1H)-pyridinone (2.9 g), poly-4-vinylpyridine (2.1 g) and a catalytic amount of 4-(N,N-dimethylamino)pyridine in 70 ml of dichloromethane, and the resulting mixture was stirred at room temperature for 3 hours. The reaction mixture was filtered and the filtrate concentrated to give 4.1 g of oil. Column chromatography (silica gel, elution with ethyl acetate) afforded 2.1 g of foam. Recrystallization from ethyl acetate/hexanes gave 1.7 g of analytically pure product as needles, m.p. 152°-153° C.

reactant | Phenylacetyl chloride | 1.6 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 5-(1-aminocyclohexyl)-1-(phenylmethyl)-2(1H)-pyridinone | 2.9 g | NC1(CCCCC1)C=1C=CC(N(C1)CC1=CC=CC=C1)=O | C18H22N2O
catalyst | 4-(N,N-dimethylamino)pyridine | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | N-[1-[1,6-Dihydro-6-oxo-1-(phenylmethyl)-3-pyridinyl]cyclohexyl]benzeneacetamide | 4.1 g | O=C1C=CC(=CN1CC1=CC=CC=C1)C1(CCCCC1)NC(CC1=CC=CC=C1)=O | C26H28N2O2
